US06815451B2
1-(3,4-Dichloro-benzyl)-6-methoxy-1,2,3,4-tetrahydro-isoquinolin-7-ol
To a solution of 7-benzyloxy-1-(3,4-dichloro-benzyl)-6-methoxy-1,2,3,4-tetrahydro-isoquinoline (14.1 g, 30 mmol) in MeOH (150 mL) and 1,2-dichlorobenzene (30 mL) is added 50% Pd on charcoal (500 mg). The reaction vessel is flushed with nitrogen and then with hydrogen at atmospheric pressure. After stirring at rt for 16 h, the reaction mixture is filtered through Hyflo, and evaporated to yield to the title compound as a beige solid which is used without further purification.

reactant | 7-benzyloxy-1-(3,4-dichloro-benzyl)-6-methoxy-1,2,3,4-tetrahydro-isoquinoline | 30 mmol, 14.1 g | C(C1=CC=CC=C1)OC1=C(C=C2CCNC(C2=C1)CC1=CC(=C(C=C1)Cl)Cl)OC | C24H23Cl2NO2
solvent | MeOH | 150 mL | CO | CH4O
solvent | 1,2-dichlorobenzene | 30 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | Pd on charcoal | 500 mg | [Pd] | Pd
product | 1-(3,4-Dichloro-benzyl)-6-methoxy-1,2,3,4-tetrahydro-isoquinolin-7-ol | ClC=1C=C(CC2NCCC3=CC(=C(C=C23)O)OC)C=CC1Cl | C17H17Cl2NO2
